US08420655B2
To a solution of oxalyl chloride (0.17 mL, 1.99 mmol) in anhydrous THF (20 mL) is added methylamine 2.0M in THF (0.99 mL, 1.99 mmol) at 0° C. The solution is stirred at 0° C. to room temperature for 0.5 hours and added to a stirred solution of 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-hydroxy-benzamidine (350 mg, 0.9 mmol) in anhydrous pyridine (5 mL). The reaction mixture is stirred at room temperature for 1 hour and then heated to 50° C. and stirred for 16 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo. Dichloromethane is added and the organics washed sequentially with saturated NaHCO3 (20 mL) solution and H2O (20 mL) then dried (Na2SO4), filtered and concentrated. Purification via flash chromatography (25 g silica gel, 50-60% EtOAc/heptane) affords 3-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-[1,2,4]oxadiazole-5-carboxylic acid methylamide (150 mg, 37%)

reactant | oxalyl chloride | 1.99 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 2.0M | CN | CH5N
reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-hydroxy-benzamidine | 0.9 mmol, 350 mg | BrC1=CC2=C(N(C(=N2)C2=C(C(=N)NO)C=CC=C2)C(C)(C)C)C=C1 | C18H19BrN4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 1.99 mmol, 0.99 mL | C1CCOC1 | C4H8O
product | 3-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-[1,2,4]oxadiazole-5-carboxylic acid methylamide | 150 mg, 37% | CNC(=O)C1=NC(=NO1)C1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)Br | C21H20BrN5O2
